US07247639B2
By the method of Example 2, 3-pyridylacetic acid is reacted with 5,6-diamino-1-[2-(4-nitrophenyl)ethyl]-3-propyluracil (6) to yield 3-[2-(4-nitrophenyl)ethyl]-1-propyl-8-[(3-pyridyl)methyl]xanthine. By the method of Example 3, this substance is reacted with sodium carbonate, 1,2-dichloroethane and ethylamine to yield 4,7-(2-ethylamino)ethyl-3-[2-(4-nitrophenyl)ethyl]-1-propyl-8-[(3-pyridyl)methyl]xanthine. By the method of Example 4, 7-(2-ethylamino)ethyl-3-[2-(4-nitrophenyl)ethyl]-1-propyl-8-[(3-pyridyl)methyl]xanthine is reduced with hydrazine hydrate or hydrogen gas in the presence of a palladium catalyst to yield 3-[2-(4-aminophenyl)ethyl]-7-(2-ethylamino)ethyl-1-propyl-8-[(3-pyridyl)methyl]xanthine free base. The corresponding hydrochloride salt is then made on exposure to an excess of hydrogen chloride in solution.

reactant | 7-(2-ethylamino)ethyl-3-[2-(4-nitrophenyl)ethyl]-1-propyl-8-[(3-pyridyl)methyl]xanthine | CCNCCN1C(=NC=2N(C(N(C(C12)=O)CCC)=O)CCC1=CC=C(C=C1)[N+](=O)[O-])CC=1C=NC=CC1 | C26H31N7O4
reactant | hydrazine hydrate | O.NN
reactant | hydrogen | [H][H] | H2
catalyst | palladium | [Pd] | Pd
product | 3-[2-(4-aminophenyl)ethyl]-7-(2-ethylamino)ethyl-1-propyl-8-[(3-pyridyl)methyl]xanthine | NC1=CC=C(C=C1)CCN1C(N(C(C=2N(C(=NC12)CC=1C=NC=CC1)CCNCC)=O)CCC)=O | C26H33N7O2
